US05798364
A mixture of 1.02 g of valeric acid, 3.59 g of 4-amino-2-oxo-3-[2'-(tetrazol-5-yl)biphenyl-4-yl-methylamino]-1,2-dihydropyridine (obtainable by reacting 3-amino-4-benzylamino-1,2-dihydro-2-oxopyridine with 4-bromomethyl-2'-cyanobiphenyl to give 4-benzylamino-3-(2'-cyanobiphenyl-4-ylmethylamino)-1,2-dihydro-2-oxopyridine, reacting the latter with trimethyltin azide according to Example 13 to give 4-benzylamino-3-[2'-(tetrazol-5-yl) biphenyl-4-ylmethylamino]-1,2-dihydro-2-oxopyridine, and removing the benzyl group by hydro-genolysis! and 50 g of polyphosphoric acid is heated at 140° for 5 hours. 4-amino-2-oxo-3-[N-2'-(tetrazol-5-yl)biphenyl-4-ylmethyl-N-valerylamino]-1,2-dihydro-pyridine and 2-oxo-3-[2'-(tetrazol-5-yl)biphenyl-4-ylmethylamino]-4-valerylamino-1,2-dihydropyridine are formed in situ as intermediates. The mixture is cooled, poured on to ice, rendered alkaline with sodium hydroxide solution and worked up in conventional manner to give 2-butyl-4-oxo-3-[2'-(tetrazol-5-yl)biphenyl-4-ylmethyl]-4,5-dihydro-3H-imidazo[4,5-c]pyridine, m.p. 167°.

reactant | valeric acid | 1.02 g | C(CCCC)(=O)O | C5H10O2
reactant | 4-amino-2-oxo-3-[2'-(tetrazol-5-yl)biphenyl-4-yl-methylamino]-1,2-dihydropyridine | 3.59 g | NC1=C(C(NC=C1)=O)N(C)C1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C19H17N7O
reactant | 3-amino-4-benzylamino-1,2-dihydro-2-oxopyridine | NC=1C(NC=CC1NCC1=CC=CC=C1)=O | C12H13N3O
reactant | 4-bromomethyl-2'-cyanobiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
product | 4-benzylamino-3-(2'-cyanobiphenyl-4-ylmethylamino)-1,2-dihydro-2-oxopyridine | C(C1=CC=CC=C1)NC1=C(C(NC=C1)=O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H22N4O
